US07105544B2
1-(2-CHLORO-4-FLUOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE
Example 38 was prepared from 1-(2-chloro-4-fluorophenyl)cyclopentanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.58 (s, 1H), 7.52 (s, 1H), 7.45–7.36 (m, 1H), 7.34–7.29 (m, 1H), 7.23 (t, 1H, J=8.0 Hz), 7.17–7.13 (m, 1H), 6.95–6.90 (m, 2H), 6.00–5.94 (m, 1H), 3.30 (q, 2H, J=6.4 Hz), 2.92–2.84 (m, 2H), 2.57–2.38 (m, 3H), 2.47–2.39 (m, 1H), 2.31 (t, 1H, J=7.2 Hz), 1.95–1.73 (m, 7H), 1.68–1.48 (m, 8H), 1.24 (d, 6H, J=7.2 Hz); ESMS m/e: 528.3 (M+H)+.

reactant | 1-(2-chloro-4-fluorophenyl)cyclopentanecarboxylic acid | ClC1=C(C=CC(=C1)F)C1(CCCC1)C(=O)O | C12H12ClFO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | 1-(2-CHLORO-4-FLUOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE | ClC1=C(C=CC(=C1)F)C1(CCCC1)C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O | C30H39ClFN3O2
